US05616586
trans-9-Bromo-7-methyl-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with trans-9-bromo-5-carboxymethyl-7-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (90 mg, 0.255 mmol) and aniline (25 μL, 0.28 mmol) to give 96 mg of the title compound (88%): mp>300° C.; 1H NMR (270 MHz, DMSO-d6) δ12.09 (bs, 1H), 7.56 (d, 2H, J=7.3 Hz), 7.32 (d, 1H, J=2 Hz), 7.30 (t, 2H, J=7.3 Hz), 7.21 (d, 1H, J=2 Hz), 7.05 (t, 1H, J=7.3 Hz), 5.15~5.25 (m, 1H), 3.19 (ddq, 1H, J=12.5, 4.6, 6.6 Hz), 2.55~2.70 (m, 2H), 2.13 (ddd, 1H, J=14.2, 4.6, 2.3 Hz), 1.67 (ddd, 1H, J=14.2, 12.5, 4.9 Hz), 1.33 (d, 3H, J=6.3 Hz).

reactant | trans-9-bromo-5-carboxymethyl-7-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.255 mmol, 90 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](C[C@H]2C)CC(=O)O | C14H13BrN2O4
reactant | aniline | 0.28 mmol, 25 μL | NC1=CC=CC=C1 | C6H7N
product | trans-9-Bromo-7-methyl-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 96 mg, 88% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](C[C@H]2C)CC(NC2=CC=CC=C2)=O | C20H18BrN3O3
